// Generated for: spectre
// Generated on: Jun  5 12:12:07 2024
// Design library name: Narasimhan
// Design cell name: Mixer_SB_CM_25D_TB_tsmc
// Design view name: schematic
simulator lang=spectre
global 0
// PARAMETERS
parameters cap_w=10
parameters res_w=75
parameters gm=20m
parameters RN=250
parameters G=100
parameters sw_mul=75
parameters flo=500M
parameters frf1=501M
parameters frf2=501.1M
parameters prf=-10
parameters prf_min=-10
parameters prf_max=20
parameters prf_step=1
parameters temperature=27
include "/cad/library/TSMC/65/lp/tsmcN65/../models/spectre/toplevel.scs" section=tt_lib

// Library name: Narasimhan
// Cell name: transimpedance_amplifier_tsmc
// View name: schematic
subckt transimpedance_amplifier_tsmc In Out
parameters _par0=100 _par1=100 _par2=20
    E0 (Out 0 0 In) vcvs gain=_par0 type=vcvs
    R4 (Out net09 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R3 (net09 net08 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R2 (net10 net08 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R0 (In net11 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    R1 (net11 net10 0) rppolyl_rf l=_par1*1u w=2u m=1 mismatchflag=0
    C2 (In Out) mimcap_sin lt=_par2*2u wt=_par2*2u mimflag=3 mf=1 \
        mismatchflag=0
    C1 (In Out) mimcap_sin lt=_par2*2u wt=_par2*2u mimflag=3 mf=1 \
        mismatchflag=0
    C0 (In Out) mimcap_sin lt=_par2*2u wt=_par2*2u mimflag=3 mf=1 \
        mismatchflag=0
ends transimpedance_amplifier_tsmc
// End of subcircuit definition.

// Library name: Narasimhan
// Cell name: current_mode_25D_mixer_tsmc
// View name: schematic
subckt current_mode_25D_mixer_tsmc IF_N IF_P LO\+ LO\- RF
    M1 (RF LO\- net4 0) nmos_rf lr=60n wr=2u nr=1 sa=450.0n sb=450.0n \
        sd=240.0n sca=1.53113 scb=3.91406e-06 scc=5.45081e-12 m=sw_mul \
        sigma=1
    M0 (RF LO\+ net8 0) nmos_rf lr=60n wr=2u nr=1 sa=450.0n sb=450.0n \
        sd=240.0n sca=1.53113 scb=3.91406e-06 scc=5.45081e-12 m=sw_mul \
        sigma=1
    I1 (net4 IF_N) transimpedance_amplifier_tsmc _par0=G _par1=res_w \
        _par2=cap_w
    I0 (net8 IF_P) transimpedance_amplifier_tsmc _par0=G _par1=res_w \
        _par2=cap_w
ends current_mode_25D_mixer_tsmc
// End of subcircuit definition.

// Library name: Passive_mixer_ee20b087
// Cell name: Inverter
// View name: schematic
subckt Inverter VDD Vin Vout
parameters wn=1u muln=1 wp=2u mulp=1
    M0 (Vout Vin 0 0) nmos_rf lr=60n wr=wn nr=1 sa=450.0n sb=450.0n \
        sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(wn*1.0))*(1/1.37e-06-1/(1.37e-06+(wn*1.0))))+(((1e-06*1e-06)/(wn*1.0))*(1/1.37e-06-1/(1.37e-06+(wn*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(wn*1.0))/1e-06)))+((1/(wn*1.0))*((1.37e-06/10.0+1e-06/100.0)*exp(-10.0*1.37e-06/1e-06)-((1.37e-06+(wn*1.0))/10.0+1e-06/100.0)*exp(-10.0*(1.37e-06+(wn*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((8.7e-07+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(wn*1.0))/1e-06)))+((1/(wn*1.0))*((1.37e-06/20.0+1e-06/400.0)*exp(-20.0*1.37e-06/1e-06)-((1.37e-06+(wn*1.0))/20.0+1e-06/400.0)*exp(-20.0*(1.37e-06+(wn*1.0))/1e-06))))/1) \
        m=muln sigma=1
    M1 (Vout Vin VDD VDD) pmos_rf lr=60n wr=wp nr=1 sa=450.0n sb=450.0n \
        sd=240.0n \
        sca=((0+(((1e-06*1e-06)/6e-08)*(1/(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/6e-08)*(1/(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))-1/((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)))+(((1e-06*1e-06)/(wp*1.0))*(1/2.77e-06-1/(2.77e-06+(wp*1.0))))+(((1e-06*1e-06)/(wp*1.0))*(1/2.77e-06-1/(2.77e-06+(wp*1.0)))))/1) \
        scb=((0+((1/6e-08)*(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/10.0+1e-06/100.0)*exp(-10.0*(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/10.0+1e-06/100.0)*exp(-10.0*((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(wp*1.0))*((2.77e-06/10.0+1e-06/100.0)*exp(-10.0*2.77e-06/1e-06)-((2.77e-06+(wp*1.0))/10.0+1e-06/100.0)*exp(-10.0*(2.77e-06+(wp*1.0))/1e-06)))+((1/(wp*1.0))*((2.77e-06/10.0+1e-06/100.0)*exp(-10.0*2.77e-06/1e-06)-((2.77e-06+(wp*1.0))/10.0+1e-06/100.0)*exp(-10.0*(2.77e-06+(wp*1.0))/1e-06))))/1) \
        scc=((0+((1/6e-08)*(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/6e-08)*(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/20.0+1e-06/400.0)*exp(-20.0*(2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))/1e-06)-(((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/20.0+1e-06/400.0)*exp(-20.0*((2.27e-06+4.5e-07+(1-1)*(6e-08+2.4e-07))+6e-08)/1e-06)))+((1/(wp*1.0))*((2.77e-06/20.0+1e-06/400.0)*exp(-20.0*2.77e-06/1e-06)-((2.77e-06+(wp*1.0))/20.0+1e-06/400.0)*exp(-20.0*(2.77e-06+(wp*1.0))/1e-06)))+((1/(wp*1.0))*((2.77e-06/20.0+1e-06/400.0)*exp(-20.0*2.77e-06/1e-06)-((2.77e-06+(wp*1.0))/20.0+1e-06/400.0)*exp(-20.0*(2.77e-06+(wp*1.0))/1e-06))))/1) \
        m=mulp sigma=1
ends Inverter
// End of subcircuit definition.

// Library name: Passive_mixer_ee20b087
// Cell name: buffer_block
// View name: schematic
subckt buffer_block In Out Vdd
    I3 (Vdd w2 Out) Inverter wn=wn3 muln=mn3 wp=wp3 mulp=mp3
    I2 (Vdd w1 w2) Inverter wn=wn2 muln=mn2 wp=wp2 mulp=mp2
    I1 (Vdd w0 w1) Inverter wn=wn1 muln=mn1 wp=wp1 mulp=mp1
    I0 (Vdd In w0) Inverter wn=wn0 muln=mn0 wp=wp0 mulp=mp0
ends buffer_block
// End of subcircuit definition.

// Library name: Narasimhan
// Cell name: Mixer_SB_CM_25D_TB_tsmc
// View name: schematic
I0 (VO_IN VO_IP net044 net041 net07) current_mode_25D_mixer_tsmc
I1 (VO_QN VO_QP net042 net043 net07) current_mode_25D_mixer_tsmc
PORT6 (net026 net025) port r=50 type=dc
PORT5 (net027 net028) port r=50 type=dc
R5 (net051 0) resistor r=RN
R4 (net06 0) resistor r=50
R3 (net16 0) resistor r=50
R2 (net10 0) resistor r=50
R1 (net17 0) resistor r=50
R0 (net11 0) resistor r=50
PORT4 (net16 0) port r=50 type=pulse delay=0.75*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_270"
PORT2 (net17 0) port r=50 type=pulse delay=0.25*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_90"
PORT3 (net10 0) port r=50 type=pulse delay=0.5*(1/flo) val0=0 val1=1.2 \
        period=1/flo rise=0.001*(1/flo) fall=0.001*(1/flo) \
        width=0.25*(1/flo) fundname="LO_180"
PORT1 (net11 0) port r=50 type=pulse delay=0 val0=0 val1=1.2 period=1/flo \
        rise=0.001*(1/flo) fall=0.001*(1/flo) width=0.25*(1/flo) \
        fundname="LO_0"
E7 (net025 0 VO_QN 0) vcvs gain=1.0
E4 (net028 0 VO_IN 0) vcvs gain=1.0
E5 (net027 0 VO_IP 0) vcvs gain=1.0
E6 (net026 0 VO_QP 0) vcvs gain=1.0
E0 (LO_0 0 net11 0) vcvs gain=1.0
E1 (LO_180 0 net10 0) vcvs gain=1.0
E3 (LO_270 0 net16 0) vcvs gain=1.0
E2 (LO_90 0 net17 0) vcvs gain=1.0
B3 (LO_270 net043 Vdd) buffer_block
B1 (LO_90 net042 Vdd) buffer_block
B2 (LO_180 net041 Vdd) buffer_block
B0 (LO_0 net044 Vdd) buffer_block
V1 (net051 net07) vsource dc=0 type=dc
V0 (Vdd 0) vsource dc=Vdd type=dc
G0 (net051 0 net06 0) vccs gm=gm
PORT0 (net06 0) port r=50 type=sine freq=frf1 dbm=prf freq2=frf2 dbm2=prf \
        fundname="frf1" fundname2="frf2"
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=temperature tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
// ANALYSIS STATEMENTS
sweephb  sweep  param=prf  start=prf_min  stop=prf_max  step=prf_step  {
  hb  hb  autotstab=yes  oversample=[1  1  1]  fundfreqs=[(flo)  (frf1)
+   (frf2)]  maxharms=[30  3  3]  errpreset=conservative  annotate=status

}

modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
